datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:13]([C:12](=[C:11]([H:15])[H:16])[H:17])([C:14]([H:19])([H:20])[H:21])[H:18])[H:5],58.4086
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[S:11])[H:12]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:10](=[S:11])[H:12],42.2584
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4](=[C:5]([C:6]([C:7](=[C:8]([H:21])[H:22])[C:9](=[C:10]([H:24])[H:25])[H:23])([H:19])[H:20])[H:18])[H:17])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])=[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]([C:9](=[C:10]([H:24])[H:25])[H:23])[C:8]1([H:21])[H:22])[H:13])([H:11])[H:12],117.361
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22],-27.196
[C:0](#[C:1][C:2]#[C:3][C:4]([H:6])([H:7])[H:8])[H:5].[C:9](#[C:10][C:11]([C:12]([H:15])([H:16])[H:17])[H:14])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4]([H:6])([H:7])[H:8])[C:11]([C:10]#[C:9][H:13])([C:12]([H:15])([H:16])[H:17])[H:14])[H:5],50.2498
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:8](=[C:9]=[C:10]([H:12])[H:13])[H:11],94.6002
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4].[c:8]1([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19]>>[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])([H:4])[H:14].[c:8]1[c:9]([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]1[H:19],139.285
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])([S:10][H:18])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:14])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[S:10][H:18])([H:11])([H:12])[H:13],56.484
[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([O:5][O:6][H:19])([H:17])[H:18])[O:7][O:8])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([O:5][O:6][H:19])([H:17])[H:18])[H:13])([H:9])([H:10])[H:11].[O:7][O:8][H:12],123.8464
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])[C:4](=[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])=[C:9]([C:10]([H:23])([H:24])[H:25])[H:22])([H:17])[H:18])[H:16])[H:15])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])=[C:5]([H:16])[C:6]([H:17])([H:18])[C:7]([C:8]([H:19])([H:20])[H:21])[C:9]1([C:10]([H:23])([H:24])[H:25])[H:22])[H:11],118.282
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][H:11])[H:7])([H:5])[H:6].[c:12]1([H:18])[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([S:4][H:11])[H:18])[H:7])([H:5])[H:6].[c:12]1[c:13]([H:19])[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]1[H:23],139.62
[C:0](#[C:1][C:2]([S:3][H:6])[H:5])[H:4].[C:7](=[C:8]([S:9][H:13])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]([S:3][H:6])([H:5])[H:12])[H:4].[C:7](=[C:8][S:9][H:13])([H:10])[H:11],96.1065
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13](=[C:14]([H:16])[H:17])[H:15],-9.6232
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[c:11]1[c:12]([H:17])[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]1[H:21])[H:5],-0.12552
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36][H:37]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:16][O:35][O:36][H:37],58.19944
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])([H:7])[C:13]([C:12](=[C:11]([H:16])[H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])[H:6])[H:5],37.3213
